US07235537B2
Step C: 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(3-oxo-3-pyrrolidin-1-yl-propyl)-3H-benzoimidazole-5-carboxylic acid methyl ester
To solution of 6-(4-bromo-2-chloro-phenylamino)-3-(2-carboxy-ethyl)-7-fluoro-3H-benzoimidazole-5-carboxylic acid methyl ester (60 mg, 0.13 mmol) in DMF (1.8 mL) is added HOBt-H2O (24 mg, 0.16 mmol), Et3N (0.043 mL, 0.31 mmol), pyrrolidine (0.011 mL, 0.13 mmol), and EDCl (34 mg, 0.18 mmol) at rt. The resulting yellow solution is stirred 16 hours at rt. The reaction mixture is diluted with EtOAc and water, washed with sat'd aq NH4Cl, brine, sat'd aq NaHCO3, and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give a crude material which is purified by flash chromatography (3% MeOH in CH2Cl2) to afford 45 mg (67%) of the desired product: MS APCI (+) m/z 523, 525 (M+, Br pattern) detected.

reactant | 6-(4-bromo-2-chloro-phenylamino)-3-(2-carboxy-ethyl)-7-fluoro-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.13 mmol, 60 mg | COC(=O)C1=CC2=C(N=CN2CCC(=O)O)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C18H14BrClFN3O4
reactant | HOBt H2O | 0.16 mmol, 24 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | Et3N | 0.31 mmol, 0.043 mL | CCN(CC)CC | C6H15N
reactant | pyrrolidine | 0.13 mmol, 0.011 mL | N1CCCC1 | C4H9N
reactant | EDCl | 0.18 mmol, 34 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-(3-oxo-3-pyrrolidin-1-yl-propyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | 45 mg, 67% | COC(=O)C1=CC2=C(N=CN2CCC(N2CCCC2)=O)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C22H21BrClFN4O3
